US06150522
Step 2E 2-{2-[7-chloro-3-(5-chlorothiophen-2-yl)-2-oxo-6-(pyrimidin-4-ylcarbamoyl)-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-[2-(1-tert-butoxycarbonylpiperidin-2-yl)-ethoxy]-7-chloro-3-(5-chlorothiophen-2-yl)-2-oxo-1,2-dihydroquinoline-6-carboxylic acid (37 mg in 0.50 mL dry methylene chloride) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC, 37 mg) followed by 4-dimethylaminopyridine (8 mg) and 4-aminopyrimidine (18 mg) and the mixture stirred at room temperature. After 18 hours, the mixture was diluted with methylene chloride and washed with brine. The organic portion was concentrated in vacuo and the residue purified by flash chromatography on silica gel (methylene chloride:methanol, 95:5+1% ammonium hydroxide) to give the title compound (17 mg).

reactant | 4-[2-(1-tert-butoxycarbonylpiperidin-2-yl)-ethoxy]-7-chloro-3-(5-chlorothiophen-2-yl)-2-oxo-1,2-dihydroquinoline-6-carboxylic acid | 0.50 mL, 37 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)C(=O)O)Cl)=O)C=1SC(=CC1)Cl | C26H28Cl2N2O6S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 37 mg | Cl.CN(CCCN=C=NCC)C
reactant | 4-aminopyrimidine | 18 mg | NC1=NC=NC=C1 | C4H5N3
catalyst | 4-dimethylaminopyridine | 8 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-{2-[7-chloro-3-(5-chlorothiophen-2-yl)-2-oxo-6-(pyrimidin-4-ylcarbamoyl)-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 17 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)C(NC1=NC=NC=C1)=O)Cl)=O)C=1SC(=CC1)Cl | C30H31Cl2N5O5S
